US07109211B2
Step 1. Preparation of ethyl 8-bromo-6-chloro-2-trifluoromethyl-2H-1-benzopyran-3-carboxylate
A mixture of 3-bromo-5-chlorosalicylaldehyde (1.9 g, 4.2 mmol), potassium carbonate (0.58 g, 4.2 mmol), and ethyl 4,4,4-trifluorocrotonate (0.79 g, 4.7 mmol) was stirred in N,N-dimethylformamide (5 mL) at 95° C. for 18 h. Water (100 mL) was added and the mixture was extracted with ether (3×50 mL). The combined organic extracts were washed with sodium hydroxide (10 mL) and water (2×50 mL). After drying over MgSO4 and concentrating, the mixture filtered through of a pad of silica eluting with ethyl acetate-hexanes (1:4). The eluant was concentrated and a light yellow solid was crystallized from cold hexane (0.43 g, 26%): mp 101.0–102.2° C. 1H NMR (acetone-d6/300 MHz) 7.90 (s, 1H), 7.65 (d, H, J=2.4 Hz), 7.61 (d, H, J=2.4 Hz), 6.03 (qH-F, 1H, J=6.9 Hz), 4.34 (m, 2H), 1.33 (t, 3H, J=7.5 Hz). ESHRMS m/z 384.9435 (M−H, Calc'd 384.9454). Anal. Calc'd for C13H9BrClF3O3: C, 40.50; H, 2.35. Found: C, 40.61; H, 2.40.

reactant | 3-bromo-5-chlorosalicylaldehyde | 4.2 mmol, 1.9 g | BrC1=C(C(C=O)=CC(=C1)Cl)O | C7H4BrClO2
reactant | potassium carbonate | 4.2 mmol, 0.58 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl 4,4,4-trifluorocrotonate | 4.7 mmol, 0.79 g | FC(/C=C/C(=O)OCC)(F)F | C6H7F3O2
reactant | Water | 100 mL | O | H2O
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | ethyl 8-bromo-6-chloro-2-trifluoromethyl-2H-1-benzopyran-3-carboxylate | BrC1=CC(=CC=2C=C(C(OC21)C(F)(F)F)C(=O)OCC)Cl | C13H9BrClF3O3
